US07692005B2
2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (4-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide
A small screw cap test tube was charged with 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.248 mmol) and THF (2 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (48.7 mg, 0.248 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature. Hexanes were added to the reaction mixture. The solid precipitate that formed was washed with ˜1 mL of i-prOH yielding 36% (50 mg, 0.089 mmol) of the title compound.

reactant | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.248 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)C)=O | C22H18N4O4
reactant | N-(4-aminophenyl)morpholine | 0.248 mmol, 48.7 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (4-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide | 0.089 mmol, 50 mg, 36% | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)C)=O | C32H30N6O4
